US07560558B2
Compound 164: 4-(2-Iodo-4,5-dimethyl-phenoxy)-6,7-dimethoxy-quinoline
2-Iodo-4,5-dimethylphenol (447 mg), 4-chloro-6,7-dimethoxyquinoline (466 mg), and 4-dimethylaminopyridine (539 mg) were suspended in o-dichlorobenzene (20 ml), and the mixture was stirred at 130° C. for 4 hr. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography using acetone-chloroform to give the title compound (452 mg, yield 50%).

reactant | 2-Iodo-4,5-dimethylphenol | 447 mg | IC1=C(C=C(C(=C1)C)C)O | C8H9IO
reactant | 4-chloro-6,7-dimethoxyquinoline | 466 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 539 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 20 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(2-Iodo-4,5-dimethyl-phenoxy)-6,7-dimethoxy-quinoline | 452 mg, yield 50% | IC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=C(C(=C1)C)C | C19H18INO3
